US05098932
Using the procedure described in Example 1, 2-[5-(3-phenylprop-2-ynyloxy)pyrid-3-yl]butane-1,2-diol was reacted with acetone to give 4-ethyl-2,2-dimethy-4-[5-(3-phenylprop-2-ynyloxy)pyrid-3-yl]-1,3-dioxolane in 59% yield, as an oil.

reactant | 2-[5-(3-phenylprop-2-ynyloxy)pyrid-3-yl]butane-1,2-diol | C1(=CC=CC=C1)C#CCOC=1C=C(C=NC1)C(CO)(CC)O | C18H19NO3
reactant | acetone | CC(=O)C | C3H6O
product | 4-ethyl-2,2-dimethy-4-[5-(3-phenylprop-2-ynyloxy)pyrid-3-yl]-1,3-dioxolane | 59% yield | C(C)C1(OC(OC1)(C)C)C=1C=NC=C(C1)OCC#CC1=CC=CC=C1 | C21H23NO3
